US06589970B2
Step 5: 1-Methyl-1H-indole-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide.
A mixture of 1-methyl-1H-indole-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (1.0 g, 2.0 mmol), prepared in the previous step, sodium azide (0.32 g, 6.0 mmol) and ammonium chloride (0.39 g, 6.0 mmol) in 15 mL of DMF was stirred under nitrogen at 100° C. for 6 h. The reaction was partitioned between ethyl acetate and water. The aqueous layer was made basic by the addition of 1 N NaOH. The organic layer was separated and the aqueous layer extracted five times with ethyl acetate. The aqueous layer was then acidified with 1N HCl. After 2 h a white solid had precipitated from solution. The solid was collected by filtration and dried under reduced pressure to give the title compound (0.8460 g, 84%) as an off-white solid, mp 227-228° C.

reactant | 1-methyl-1H-indole-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 2.0 mmol, 1.0 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=CN(C2=CC=CC=C12)C)C | C24H20BrN3O2
reactant | sodium azide | 6.0 mmol, 0.32 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 6.0 mmol, 0.39 g | [Cl-].[NH4+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-1H-indole-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide | 0.8460 g, 84% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C1=CN(C2=CC=CC=C12)C)C | C24H21BrN6O2
